US03943145
10 G (0.04 mol) of 2-amino-5-chloro-2'-fluorobenzophenone are dissolved in a mixture of 40 ml of glacial acetic acid and 10 ml of concentrated hydrochloric acid and diazotised with 10 ml (0.04 mol) of 4 M sodium nitrite solution. The mixture is then diluted with 200 ml of ice-cold water and neutralised by addition of 16.3 g (0.12 mol) of crystalline sodium acetate. The turbid solution is clarified by filtration using active charcoal and a solution of 8.5 g (0.13 mol) of sodium azide in 100 ml of water is then added. The reaction product which has precipitated is filtered off and washed with water until neutral. After drying over potassium hydroxide/calcium chloride in a desiccator, 2-azido-5-chloro-2'-fluorobenzophenone of decomposition point 90°C is obtained.

reactant | 2-amino-5-chloro-2'-fluorobenzophenone | 0.04 mol | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C13H9ClFNO
reactant | sodium nitrite | 0.04 mol, 4 M, 10 ml | N(=O)[O-].[Na+]
reactant | sodium acetate | 0.12 mol, 16.3 g | C(C)(=O)[O-].[Na+]
reactant | sodium azide | 0.13 mol, 8.5 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2-azido-5-chloro-2'-fluorobenzophenone | N(=[N+]=[N-])C1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C13H7ClFN3O
